US05102877
To a solution of (2R,4R)-1-(tert-butoxycarbonyl)-4-hydroxy-2-methylpyrrolidine (1.92 g) and methanesulfonyl chloride (955 μl) in dichloromethane (30 ml) was added dropwise triethylamine (1.99 ml) at 0° C. After one hour, the reaction mixture was washed in turn with 1N-hydrochloric acid and brine and the organic layer was dried over magnesium sulfate. Evaporation of the solvent gave an oil, which was chromatographed on silica gel (200 ml) eluting with a mixture of hexane and ethyl acetate (1:1, V/V) to give (2R,4R)-1-(tert-butoxycarbonyl)-4-methanesulfonyloxy-2-methylpyrrolidine (2.49 g).

reactant | (2R,4R)-1-(tert-butoxycarbonyl)-4-hydroxy-2-methylpyrrolidine | 1.92 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C | C10H19NO3
reactant | methanesulfonyl chloride | 955 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.99 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (2R,4R)-1-(tert-butoxycarbonyl)-4-methanesulfonyloxy-2-methylpyrrolidine | 2.49 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)C | C11H21NO5S
